US06599902B2
A mixture of (2S,3S)-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (6 g), EDAC (6 g, 1.2 eq.), HOBt (4.2 g, 1.2 eq.), TEA (9 mL, 2.5 eq.) and cyclopropylamine (2.2 mL, 1.2 eq.) in DMF (30 mL) was stirred at rt for over the weekend. The insolubles were filtered off, the filtrate was concentrated, redissolved in ethyl acetate, washed with sodium bicarbonate and brine, dried and concentrated to give 5.6 g of (2S,3S)-2-cyclopropylcarbamoyl-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester as a white solid.

reactant | (2S,3S)-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 6 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)C(=O)O | C10H17NO5
reactant | EDAC | 6 g, 1.2 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 4.2 g, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylamine | 2.2 mL, 1.2 eq. | C1(CC1)N | C3H7N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (2S,3S)-2-cyclopropylcarbamoyl-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.6 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)C(NC1CC1)=O | C13H22N2O4
